US04010166
The solution of 6.0 g of 2-(3-cyclopropylmethylamino-1,1-diphenylpropoxy)-acetaldehyde diethyl acetal in 60 ml of 95% ethanol and 10 ml of 6N hydrochloric acid is stirred at 20-45° for 3 hours, cooled and 0.5 g of 10% palladium on charcoal are added. The mixture is hydrogenated at 2.7 atm. and 40° until the hydrogen uptake ceases. It is filtered, the filtrate neutralized with aqueous sodium hydroxide and evaporated. The resudue is partitioned between water and methylene chloride, the organic phase separated, dried and evaporated. The residue is taken up in the minimum amount of acetone, the solution acidified with hydrogen chloride and diluted with diethyl ether, to yield the 4-cyclopropylmethyl-7,7-diphenyl-hexahydro-1,4-oxazepine hydrochloride melting at 268°-270°; it is identical with compound No. 11 of Example 2.

reactant | 2-(3-cyclopropylmethylamino-1,1-diphenylpropoxy)-acetaldehyde diethyl acetal | 6.0 g | C(C)OC(COC(CCNCC1CC1)(C1=CC=CC=C1)C1=CC=CC=C1)OCC | C25H35NO3
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 6N, 10 ml | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 4-cyclopropylmethyl-7,7-diphenyl-hexahydro-1,4-oxazepine hydrochloride | Cl.C1(CC1)CN1CCOC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H25NO.ClH/c1-3-7-19(8-4-1)21(20-9-5-2-6-10-20)13-14-22(15-16-23-21)17-18-11-12-18;/h1-10,18H,11-17H2;1H
